US06972283B2
To a suspension of 3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methyl-1H-pyrazole (50 mg) and cesium carbonate (0.20 g) in N,N-dimethylformamide (1 mL) was added iodopropane (0.036 mL) at 50° C., and the mixture was stirred overnight. Water was added to the reaction mixture, and the resulting mixture was purified by solid phase extraction on ODS (washing solvent:distilled water, eluent:methanol). The resulting semi-purified material was purified by column chromatography on silica gel (eluent:dichloromethane/methanol=8/1) to give 3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methyl-1-propylpyrazole (28 mg).

reactant | 3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methyl-1H-pyrazole | 50 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)OC(C)C)C | C20H28N2O7
reactant | cesium carbonate | 0.20 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodopropane | 0.036 mL | ICCC | C3H7I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methyl-1-propylpyrazole | 28 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NN(C(=C1CC1=CC=C(C=C1)OC(C)C)C)CCC | C23H34N2O7
